US07199239B2
Intermediate 52: 2-Bromo-6-(4-methylphenyl)pyrazine
To a flask containing 2-chloro-6-(4-methylphenyl)pyrazine (2.5 g, 12.3 mmol), was added phosphorus tribromide (20 mL) and the mixture heated at reflux for 6 h under nitrogen. The reaction mixture was cooled to room temperature prior to pouring carefully into iced water (600 mL). The resulting solution was adjusted to pH 6–7 using aqueous ammonia and extracted with Et2O (2×250 mL). The organic solution was dried (MgSO4) and the solvent removed in vacuo to afford the title compound as a white solid (2.32 g).

reactant | 2-chloro-6-(4-methylphenyl)pyrazine | 12.3 mmol, 2.5 g | ClC1=NC(=CN=C1)C1=CC=C(C=C1)C | C11H9ClN2
reactant | phosphorus tribromide | 20 mL | P(Br)(Br)Br | Br3P
reactant | ammonia | N | H3N
solvent | water | 600 mL | O | H2O
product | 2-Bromo-6-(4-methylphenyl)pyrazine | 2.32 g | BrC1=NC(=CN=C1)C1=CC=C(C=C1)C | C11H9BrN2
